US09290451B2
c) 7,7-Dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid methyl ester
Trifluoro-methanesulfonic acid 7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-2-yl ester (3.1 g, 10.0 mmol) was dissolved in methanol (45 mL) and ethyl acetate (45 mL). PdCl2(dppf)-CH2Cl2 adduct (311 mg, 381 μmol) and triethylamine (1.52 g, 2.1 mL, 15.0 mmol) were added and the mixture was stirred in an autoclave at 110° C. with a CO pressure of 70 bar for 24 h. The solvents were evaporated to give a red-brown oily residue that was purified by gradient chromatography on silica with ethyl acetate in heptane. The chromatography yielded 1.9 g (86%) of the title compound as white solid; LC-MS (UV peak area/EIC) 100%, 220.1335 (M+H)+.

reactant | Trifluoro-methanesulfonic acid 7,7-dimethyl-5,6,7,8-tetrahydro-quinolin-2-yl ester | 10.0 mmol, 3.1 g | CC1(CCC=2C=CC(=NC2C1)OS(=O)(=O)C(F)(F)F)C | C12H14F3NO3S
reactant | triethylamine | 15.0 mmol, 2.1 mL, 1.52 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 45 mL | CO | CH4O
catalyst | PdCl2(dppf) CH2Cl2 | 381 μmol, 311 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 7,7-Dimethyl-5,6,7,8-tetrahydro-quinoline-2-carboxylic acid methyl ester | 1.9 g, 86% | COC(=O)C1=NC=2CC(CCC2C=C1)(C)C | C13H17NO2
